US07417047B2
Step c-2) Preparation of 4-[2-Amino-1-methyl-5-oxo-4-(3-pyrimidin-5-ylphenyl)-4,5-dihydro-1H-imidazol-4-yl]-1-methyl-1H-pyrrole-2-carbonitrile
The toluene/ethanol (1/1) solvent mixture was deoxygenated vigorously with nitrogen gas prior to using in this reaction. A mixture of 4-[2-amino-4-(3-bromophenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-1-methyl-1H-pyrrole-2-carbonitrile (173 mg, 0.465 mmol), sodium carbonate (148 mg, 1.394 mmol), pyrimidine-5-boronic acid (86.4 mg, 0.697 mmol) and tetrakis(triphenylphosphine)palladium(0) (27 mg, 0.023 mmol) in toluene/ethanol (1/1) solvent mixture (10 mL) was heated in a 100° C. oil bath for eight hours. TLC (5% methanol/chloroform) shows complete conversion to a new material. The solvent was removed by evaporation and the residue dissolved in chloroform and washed with water. The organic phase was dried (Na2SO4), filtered and evaporated. The resultant residue was purified by HPLC (Luna CN column, normal mobile phase). Crystallization from warm ethyl acetate/hexane afforded the title product as a pure crystalline material, mp 214-225° C.; MS (ES) m/z 370.1.

reactant | 4-[2-amino-4-(3-bromophenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-1-methyl-1H-pyrrole-2-carbonitrile | 0.465 mmol, 173 mg | NC=1N(C(C(N1)(C1=CC(=CC=C1)Br)C=1C=C(N(C1)C)C#N)=O)C | C16H14BrN5O
reactant | sodium carbonate | 1.394 mmol, 148 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | pyrimidine-5-boronic acid | 0.697 mmol, 86.4 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | Et2O hexane | CCOCC.CCCCCC
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.023 mmol, 27 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[2-Amino-1-methyl-5-oxo-4-(3-pyrimidin-5-ylphenyl)-4,5-dihydro-1H-imidazol-4-yl]-1-methyl-1H-pyrrole-2-carbonitrile | NC=1N(C(C(N1)(C1=CC(=CC=C1)C=1C=NC=NC1)C=1C=C(N(C1)C)C#N)=O)C | C20H17N7O
